US09056865B2
Step 3: N-(1-(5′-chloro-3′-fluoro-3,5-dimethyl-2,4′-bipyridin-2′-yl)piperidin-4-yl)-3-(methylsulfonyl)propanamide
A stirred solution of 1-(5′-chloro-3′-fluoro-3,5-dimethyl-[2,4′-bipyridin]-2′-yl)piperidin-4-amine (81.5 mg, 0.20 mmol), 3-(methylsulfonyl)propanoic acid (45.7 mg. 0.30 mmol), and NMM (80.9 mg, 0.80 mmol) in DMF (2 mL) was treated with HATU (91.3 mg, 0.24 mmol) portionwise. The reaction solution was stirred at rt under nitrogen for 2 h. EtOAc (30 mL) and brine (10 mL) were added and layers were separated. The organic layer was washed with brine (2×), dried over sodium sulfate, and concentrated. Purification on ISCO separation system with a 4-gram column using 0-8% MeOH in EtOAc afforded a colorless gum, which was sonicated in heptane/EtOAc to furnish a solid. After solvent removal, 56 mg (60%) of waxy, white solid was obtained: LRMS (M+H)+: 469.1; 1H NMR (400 MHz, CDCl3) δ 1.52 (dd, J=12.51, 3.66 Hz, 2 H), 2.02 (d, J=12.38 Hz, 2 H), 2.15 (s, 3 H), 2.39 (s, 3 H), 2.74 (t, J=6.95 Hz, 2 H), 2.96 (s, 3 H), 2.97-3.12 (m, 2 H), 3.42 (t, J=7.07 Hz, 2 H), 3.89-4.12 (m, 3 H), 5.63 (d, J=7.33 Hz, 1H), 7.47 (d, J=0.76 Hz, 1 H), 8.10 (s, 1 H), 8.40 (d, J=1.26 Hz, 1 H).

reactant | 1-(5′-chloro-3′-fluoro-3,5-dimethyl-[2,4′-bipyridin]-2′-yl)piperidin-4-amine | 0.20 mmol, 81.5 mg | ClC=1C(=C(C(=NC1)N1CCC(CC1)N)F)C1=NC=C(C=C1C)C | C17H20ClFN4
reactant | 3-(methylsulfonyl)propanoic acid | 0.30 mmol, 45.7 mg | CS(=O)(=O)CCC(=O)O | C4H8O4S
reactant | NMM | 0.80 mmol, 80.9 mg | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.24 mmol, 91.3 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | brine | 10 mL | [Cl-].[Na+].O
solvent | heptane EtOAc | CCCCCCC.CCOC(=O)C
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | N-(1-(5′-chloro-3′-fluoro-3,5-dimethyl-2,4′-bipyridin-2′-yl)piperidin-4-yl)-3-(methylsulfonyl)propanamide | ClC=1C(=C(C(=NC1)N1CCC(CC1)NC(CCS(=O)(=O)C)=O)F)C1=NC=C(C=C1C)C | C21H26ClFN4O3S
